US05362725
2-(2,3-Dihydroxypropyl)-1,2,3,4,10,14b-hexahydrodibenzo[c,f]pyrazino[1,2-a]azepine
A mixture of 0.41 g of glycidol and 0.9 ml of water was added, whilst ice-cooling, to a solution of 1 g of 1,2,3,4,10,14b-hexahydrodibenzo[c,f]pyrazino[1,2-a]azepine dissolved in 2 ml of ethanol, and the mixture was stirred at room temperature for 5 hours; it was then concentrated by evaporation under reduced pressure. The residue was subjected to column chromatography through silica gel, using a 10:1 by volume mixture of ethyl acetate and ethanol as the eluent, to afford 0.72 g (yield 56%) of the title compound as a colorless foam.

reactant | glycidol | 0.41 g | C1C(O1)CO | C3H6O2
reactant | water | 0.9 ml | O | H2O
reactant | 1,2,3,4,10,14b-hexahydrodibenzo[c,f]pyrazino[1,2-a]azepine | 1 g | C1NCCN2C1C1=C(CC3=C2C=CC=C3)C=CC=C1 | C17H18N2
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 2-(2,3-Dihydroxypropyl)-1,2,3,4,10,14b-hexahydrodibenzo[c,f]pyrazino[1,2-a]azepine | 0.72 g, yield 56% | OC(CN1CC2N(C3=C(CC4=C2C=CC=C4)C=CC=C3)CC1)CO | C20H24N2O2
